US07452892B2
B. Preparation of (4-(ethylsulfonyl)phenyl)methanol
To a stirring solution of 4-(ethylsulfonyl)benzoic acid (500 mg, 2.33 mmol) in THF (5 mL) at 0° C. under argon was added 1 M borane in THF solution (3.5 mL, 3.5 mmol). The reaction mixture was stirred at 70° C. for 20 min. The reaction mixture was then cooled to room temperature, and the THF was removed under reduced pressure. The residue thus obtained was diluted with methanol (5 mL) and stirred for 5 min. Methanol was then removed under reduced pressure. This process was repeated two more times to ensure complete methanolysis of any borane complex. After residual solvent removal under vacuum, 420 mg of the title compound was obtained as a colorless gum. HPLC/MS: retention time=1.373 min, [M+H]+=201.

reactant | 4-(ethylsulfonyl)benzoic acid | 2.33 mmol, 500 mg | C(C)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C9H10O4S
reactant | borane | 1 M | B | BH3
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 3.5 mmol, 3.5 mL | C1CCOC1 | C4H8O
product | (4-(ethylsulfonyl)phenyl)methanol | 420 mg | C(C)S(=O)(=O)C1=CC=C(C=C1)CO | C9H12O3S
